US04731374
4-Pyrrolidino-cyclohexanol
Prepared from 4-amino-cyclohexanol and 1,4-dibromo-butane.

reactant | 4-amino-cyclohexanol | NC1CCC(CC1)O | C6H13NO
reactant | 1,4-dibromo-butane | BrCCCCBr | C4H8Br2
product | 4-Pyrrolidino-cyclohexanol | N1(CCCC1)C1CCC(CC1)O | C10H19NO
